US04343811
2-[2-(4-Acetamido-phenyl)-1-propyl-1H-indole-6-yloxy]-2-methyl-propanoic acid ethylester
An amount of 5.4 g (13 m mole) of 2-methyl-2-[2-(4-nitro-phenyl)-1-propyl-1H-indole-6-yloxy]-propanoic acid ethylester and 2.5 g of Raney-Nickel were suspended in 150 ml of acetic anhydride and hydrogenated at a pressure of 5 bar with hydrogen at 20° C. Subsequently the catalyst was filtered off and the filtrate was evaporated. The resulting residue was chromatographed on silicagel (solvent: toluene/acetone (3:1)), the eluates were evaporated, and the residue was triturated with petroleum ether/ether and suction filtered.

reactant | 2-methyl-2-[2-(4-nitro-phenyl)-1-propyl-1H-indole-6-yloxy]-propanoic acid ethylester | 5.4 g | C(C)OC(C(C)(OC1=CC=C2C=C(N(C2=C1)CCC)C1=CC=C(C=C1)[N+](=O)[O-])C)=O | C23H26N2O5
reactant | hydrogen | [H][H] | H2
reactant | acetic anhydride | 150 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | Raney-Nickel | 2.5 g | [Ni] | Ni
product | 2-[2-(4-Acetamido-phenyl)-1-propyl-1H-indole-6-yloxy]-2-methyl-propanoic acid ethylester | C(C)OC(C(C)(C)OC1=CC=C2C=C(N(C2=C1)CCC)C1=CC=C(C=C1)NC(C)=O)=O | C25H30N2O4
